US07994176B2
1-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-3-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one
Treat a mixture of 3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-1-[3,5-dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-pyrrolidin-2-one (0.18 g), THF (6 mL) and water (6 mL) with TFA (2 mL) at room temperature for 1 hour and then at 55° C. for 12 hours. Cool the reaction, dilute with ethyl acetate, and wash with sodium bicarbonate (sat.). Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify on silica gel column with 50% ethyl acetate in hexanes to 100% ethyl acetate gradient to afford 0.075 g (59%) of the titled product. MS (m/z): 599 (M+).

reactant | 3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-1-[3,5-dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-pyrrolidin-2-one | 0.18 g | C(C)(C)(C)[Si](OC1CCC(CC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)C1=CC=C(C=C1)C(=O)N1CCC(CC1)C(F)(F)F)Cl)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H51Cl2F3N2O3Si
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | water | 6 mL | O | H2O
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-3-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 0.075 g, 59% | ClC=1C=C(C=C(C1CN1C(C(CC1)C1CCC(CC1)O)=O)Cl)C1=CC=C(C=C1)C(=O)N1CCC(CC1)C(F)(F)F | C30H33Cl2F3N2O3
